US07378525B2
N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2,6-difluoro-benzamide (C-109)
The title compound was prepared following the general procedure in Scheme 5, beginning with 4-(2,6-difluoro-benzoylamino)-naphthalene-1-sulfonyl chloride, and substituting butyryl chloride and triethylamine for 2-isocyanato-propane. 1H NMR (300 MHz, DMSO) δ 11.12(s, 1H), 8.71 (m, 1H), 8.26 (m, 2H), 8.13 (d, 1H), 7.98 (d, 1H), 7.75 (m, 2H), 7.62 (m, 1H), 7.31 (t, 2H), 4.01 (d, 1H), 3.60 (d, 1H), 2.93 (t, 1H), 2.59 (m, 2H), 2.15 (t, 2H), 1.45 (m, 2H), 1.43 (q, 2H), 1.17 (m, 2H), 0.81 (t, 3H); LC/MS m/z 514 (M−H)−, 516 (M+H)+

reactant | 4-(2,6-difluoro-benzoylamino)-naphthalene-1-sulfonyl chloride | FC1=C(C(=O)NC2=CC=C(C3=CC=CC=C23)S(=O)(=O)Cl)C(=CC=C1)F | C17H10ClF2NO3S
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2,6-difluoro-benzamide | C(CCC)(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1F)F)=O | C26H27F2N3O4S
